US06087380
1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(methoxycarbonylmethyl)-amide-dihydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(methoxycarbonylmethyl)-amide and methanolic hydrochloric acid, methanol and ammonium carbonate. Yield: 73% of theory, C25H25N7O3 (471.5) Rf value: 0.12 (silica gel; dichloromethane/ethanol=4:1) ##EQU42##

reactant | 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(methoxycarbonylmethyl)-amide | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C)C=C1)CC(=O)OC | C25H22N6O3
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | CO | CH4O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(methoxycarbonylmethyl)-amide-dihydrochloride | Yield: 73% | Cl.Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CC(=O)OC | InChI=1S/C25H25N7O3.2ClH/c1-31-20-11-8-17(25(34)32(15-23(33)35-2)21-5-3-4-12-28-21)13-19(20)30-22(31)14-29-18-9-6-16(7-10-18)24(26)27;;/h3-13,29H,14-15H2,1-2H3,(H3,26,27);2*1H
